US05589473
To a suspension of 95.3 g of 2-formyl-3,5-dimethoxy-6-methylbenzoic acid methyl ester in 250 ml of dichloromethane were added 800 ml of a 1M solution of boron trichloride in dichloromethane over 40 min at a temperature of 5°-10° C. The mixture was allowed to warm to 20° C. within 30 min and stirring was continued at room temperature for 4 h. The clear solution was cooled to 5° C. and then poured into a mixture of 1.5 l of ice-water and 0.5 l of dichloromethane. The layers were separated and the aqueous phase was back-extracted with 0.4 l of dichloromethane. The organic layers were washed with water, dried over sodium sulfate and evaporated in vacuo. Crystallization of the residual material from ethyl acetate/hexane provided 77.3 g of 2-formyl-3-hydroxy-5-methoxy-6-methylbenzoic acid methyl ester as colorless crystals of m.p. 118°-119° C.

reactant | 2-formyl-3,5-dimethoxy-6-methylbenzoic acid methyl ester | 95.3 g | COC(C1=C(C(=CC(=C1C)OC)OC)C=O)=O | C12H14O5
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 l | ClCCl | CH2Cl2
product | 2-formyl-3-hydroxy-5-methoxy-6-methylbenzoic acid methyl ester | 77.3 g | COC(C1=C(C(=CC(=C1C)OC)O)C=O)=O | C11H12O5
